US07435744B2
2-Oxo-N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-2-(4-p-tolyloxy-piperidin-1-yl)-acetamide (45 70002274)
The title compound is prepared from oxo-(4-p-tolyloxy-piperidin-1-yl)-acetic acid and 5-amino-1,3-dihydro-indol-2-one according to the method described in Example 2. The filtered crystals are purified by column chromatography using Kieselgel 60 (Merck) as adsorbent and toluene:methanol=4:1 as eluent. Melting Point: 176-178° C. (diethyl ether)

reactant | oxo-(4-p-tolyloxy-piperidin-1-yl)-acetic acid | O=C(C(=O)O)N1CCC(CC1)OC1=CC=C(C=C1)C | C14H17NO4
reactant | 5-amino-1,3-dihydro-indol-2-one | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
product | 2-Oxo-N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-2-(4-p-tolyloxy-piperidin-1-yl)-acetamide | O=C(C(=O)NC=1C=C2CC(NC2=CC1)=O)N1CCC(CC1)OC1=CC=C(C=C1)C | C22H23N3O4
